.include osu018p.lib
.include osu018n.lib
m3 vdd q qbar vdd pfet W=0.36u L=0.18u M=1
m6 q qbar vdd vdd pfet W=0.36u L=0.18u M=1
m2 qbar q gnd gnd nfet W=0.72u L=0.18u M=1
m7 gnd qbar q gnd nfet W=0.72u L=0.18u M=1
m8 blbar wl qbar gnd nfet W=0.36u L=0.18u M=1
m1 q wl bl gnd nfet W=0.36u L=0.18u M=1
v3 vdd gnd  dc 1.8V
v2   wl gnd pulse(1.8V 1.8V 0ns 1ns 1ns 5ns 10ns)
v1   bl gnd pulse(0V 1.8V 0ns 1ns 1ns 5ns 10ns)
m5 vdd bl blbar outinv pfet W=0.9u L=0.18u M=1
m4   blbar  bl gnd outinv nfet W=0.36u L=0.18u M=1 
.tran 1e-09 20e-09 0e-00

* Control Statements 
.control
run
plot bl
plot blbar
plot q
plot qbar
plot wl
.endc
.end
